US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine (Compound 134)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(3-methylphenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 91%). 1H NMR (300 MHz, CDCl3): δ 2.33 (s, 3H), 2.46 (s, 3H), 3.21-3.28 (m, 4H), 3.72-3.86 (m, 4H), 4.13 (s, 3H), 6.74-6.78 (m, 4H), 7.00-8.01 (m, 4H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine | 91% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)C | C22H25N5O2
